US06251912B1
A solution of 1.08 g of 3,4-diethoxy-3-cyclobutene-1,2-dione and 1.0 g of N-(3-bromophenyl)-4,6-quinazolindiamine in 10 mL of ethanol was refluxed for 3 hr. The mixture was cooled to room temperature. The solid was collected by filtration and washed with ethanol to give 0.9 g of 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-ethoxy-cyclobut-3-ene-1,2-dione as a yellow powder: mass spectrum (m/e): M+H 441.1.

reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 1.08 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | 1.0 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[4-(3-Bromo-phenylamino)-quinazolin-6-ylamino]-4-ethoxy-cyclobut-3-ene-1,2-dione | 0.9 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC=1C(C(C1OCC)=O)=O | C20H15BrN4O3
